US05616601
To a suspension of 4-fluoroaniline (4 mL, 40 mmol) in toluene (120 mL), trimethylaluminum (2M solution in toluene, 21 mL, 42 mmol) was added over 15 minutes. The reaction mixture was warmed to room temperature and stirred for 3 hours. A solution of 4-(methylsulfonyl)benzonitrile (7.65 g, 40 mmol) in methylene chloride (100 mL) was added over 10 minutes and the reaction mixture was heated to 70°-75° C. After 48 hours, the reaction mixture was cooled to room temperature and poured over a slurry of silica gel in chloroform. After filtration, the residue was washed with a mixture of methylene chloride/methanol. The combined filtrates were concentrated in vacuo and the resulting crude intermediate (7.7 g) was chromatographed [silica gel, hexane/ethyl acetate, 25/75] to give 4-methylsulfonyl-N-[4-chlorophenyl]benzenecarboximidamide (4.1 g, 35%) as a white solid: mp (DSC) 182° C. Anal. Calc'd. for C14H13N2SO2F: C, 57.52, H, 4.48, N, 9.58, S, 10.97. Found: C, 57.37, H, 4.69, N, 9.21, S, 10.69.

reactant | 4-fluoroaniline | 40 mmol, 4 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | trimethylaluminum | 42 mmol, 2M, 21 mL | C[Al](C)C
reactant | 4-(methylsulfonyl)benzonitrile | 40 mmol, 7.65 g | CS(=O)(=O)C1=CC=C(C#N)C=C1 | C8H7NO2S
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-methylsulfonyl-N-[4-chlorophenyl]benzenecarboximidamide | 4.1 g, 35% | CS(=O)(=O)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)Cl)=N | C14H13ClN2O2S
